US05439928
a) 1-benzyl-5-[1-(4-fluorophenyl)-1-hydroxymethyl]-1H-imidazole
Grignard reaction of 4-bromofluorobenzene and 1-benzyl-5-imidazolecarbaldehyde is performed analogously to Example 7 a). The product is crystallized as hydrochloride salt from ethylacetate. Yield 94%.

reactant | 4-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 1-benzyl-5-imidazolecarbaldehyde | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
product | 1-benzyl-5-[1-(4-fluorophenyl)-1-hydroxymethyl]-1H-imidazole | Yield 94% | C(C1=CC=CC=C1)N1C=NC=C1C(O)C1=CC=C(C=C1)F | C17H15FN2O
